US08470827B2
Preparation of N-[(1R,3S)-3-isopropyl-3-(4-[6-(trifluoromethyl)pyrimidin-4-yl]piperazin-1-ylcarbonyl)cyclopentyl]-3-methyltetrahydro-2H-pyran-4-amine
A solution of tert-butyl [(1R,3S)-3-isopropyl-3-(4-[6-(trifluoromethyl)pyrimidin-4-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate (800 mg, 1.65 mmol) dissolved in 4 M of HCl in 1,4-dioxane (10 mL, 40 mmol) was stirred at room temperature for 2 h. The reaction mixture was diluted with methylene chloride, washed with saturated NaHCO3 solution, dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (0.6 g, 99%). LCMS calculated for C18H27F3N5O: (M+1) 386.2; found 386.2.

reactant | tert-butyl [(1R,3S)-3-isopropyl-3-(4-[6-(trifluoromethyl)pyrimidin-4-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate | 1.65 mmol, 800 mg | C(C)(C)[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C1=NC=NC(=C1)C(F)(F)F | C23H34F3N5O3
reactant | 1,4-dioxane | 40 mmol, 10 mL | O1CCOCC1 | C4H8O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | HCl | 4 M | Cl | ClH
product | N-[(1R,3S)-3-isopropyl-3-(4-[6-(trifluoromethyl)pyrimidin-4-yl]piperazin-1-ylcarbonyl)cyclopentyl]-3-methyltetrahydro-2H-pyran-4-amine | 0.6 g, 99% | C(C)(C)[C@]1(C[C@@H](CC1)NC1C(COCC1)C)C(=O)N1CCN(CC1)C1=NC=NC(=C1)C(F)(F)F | C24H36F3N5O2
